US09399637B2
Step 6) 5-chloro-N2-(2,3-dimethyl-2H-indazol-6-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine
To a solution of tert-butyl 9-((5-chloro-2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate (161.5 mg, 0.30 mmol) in DCM (10 mL) was added a solution of HCl in EtOAc (10 mL, 40 mmol). The reaction mixture was stirred at rt for 2 h and concentrated in vacuo. The residue was dissolved in water (30 mL) and adjusted to pH=10 with a saturated Na2CO3 aqueous solution, then extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), dried over anhydrous Na2SO4, concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/10) to give the title compound as a beige solid (131.6 mg, 100%).

reactant | tert-butyl 9-((5-chloro-2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 0.30 mmol, 161.5 mg | ClC=1C(=NC(=NC1)NC=1C=CC2=C(N(N=C2C1)C)C)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C28H38ClN7O2
reactant | HCl | Cl | ClH
reactant | EtOAc | 40 mmol, 10 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N2-(2,3-dimethyl-2H-indazol-6-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 131.6 mg, 100% | ClC=1C(=NC(=NC1)NC=1C=CC2=C(N(N=C2C1)C)C)NC1CCC2(CCNCC2)CC1 | C23H30ClN7
